### PR TITLE
feat(SimpleGraph): `bypass` lemmas

### PR DESCRIPTION
**Pull request by vlad902**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 1]
```diff
@@ -745,6 +745,17 @@ lemma bypass_eq_self_of_length_le (p : G.Walk u v) (h : p.length ≤ p.bypass.le
...
 
+@[simp]
+lemma bypass_cons_nil (hadj : G.Adj u v) : (cons hadj nil).bypass = cons hadj nil := by
+  grind [bypass, support_nil, SimpleGraph.irrefl]
+
+@[simp]
+lemma bypass_eq_nil (p : G.Walk u u) : p.bypass = nil := by
+  grind [p.bypass_isPath, isPath_iff_eq_nil]
+
+lemma bypass_eq_of_isPath {p : G.Walk u v} (h : p.IsPath) : p.bypass = p := by
```
Comment (mkaratarakis) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:756]: This could be an if and only if statement

**Comment by vlad902** [comment]
Closed in favor of #37562
